************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 2r2w_new
* View Name:     schematic
* Netlisted on:  Aug 19 11:41:30 2009
************************************************************************

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    2r2w_new
* View Name:    schematic
************************************************************************

.SUBCKT 2r2w_new R1_WL R2_WL W1_WL W2_WL
+ R1_BTL R1_BTLB R2_BTL R2_BTLB 
+ W1_BTL W1_BTLB W2_BTL W2_BTLB
*.PININFO r1_wl:I r2_wl:I w1_btl:I w1_btlb:I w1_wl:I w2_btl:I w2_btlb:I 
*.PININFO w2_wl:I r1_btl:B r1_btlb:B r2_btl:B r2_btlb:B
MM78 r1_btl r1_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM79 r2_btl r2_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM41 net0220 w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM42 net0220 w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM39 w2_btl w2_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM48 r2_btlb r2_wl net0220 gnd! NMOS_VTL W=90n L=50n
MM47 r1_btlb r1_wl net0220 gnd! NMOS_VTL W=90n L=50n
MM1 net0248 net0220 gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! net0248 net0220 gnd! NMOS_VTL W=90n L=50n
MM3 vdd! net0248 net0220 vdd! PMOS_VTL W=180n L=50n
MM2 net0248 net0220 vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

