************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 4r2w_new
* View Name:     schematic
* Netlisted on:  Oct  4 15:48:48 2009
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    4r2w_new
* View Name:    schematic
************************************************************************

.SUBCKT 4r2w_new R1_WL R2_WL R3_WL R4_WL
+ W1_WL W2_WL R1_BTL R1_BTLB R2_BTL R2_BTLB R3_BTL R3_BTLB R4_BTL R4_BTLB 
+ W1_BTL W1_BTLB W2_BTL W2_BTLB
*.PININFO r1_wl:I r2_wl:I r3_wl:I r4_wl:I w1_btl:I w1_btlb:I w1_wl:I w2_btl:I 
*.PININFO w2_btlb:I w2_wl:I r1_btl:B r1_btlb:B r2_btl:B r2_btlb:B r3_btl:B 
*.PININFO r3_btlb:B r4_btl:B r4_btlb:B
MM78 r1_btl r1_wl net105 gnd! NMOS_VTL W=90n L=50n
MM79 r2_btl r2_wl q gnd! NMOS_VTL W=90n L=50n
MM80 r4_btl r4_wl net105 gnd! NMOS_VTL W=90n L=50n
MM81 r3_btl r3_wl q gnd! NMOS_VTL W=90n L=50n
MM94 net90 qbar gnd! gnd! NMOS_VTL W=90n L=50n
MM95 gnd! q net105 gnd! NMOS_VTL W=90n L=50n
MM49 r3_btlb r3_wl qbar gnd! NMOS_VTL W=90n L=50n
MM41 qbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM51 r4_btlb r4_wl net90 gnd! NMOS_VTL W=90n L=50n
MM42 qbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl q gnd! NMOS_VTL W=90n L=50n
MM39 w2_btl w2_wl q gnd! NMOS_VTL W=90n L=50n
MM48 r2_btlb r2_wl qbar gnd! NMOS_VTL W=90n L=50n
MM47 r1_btlb r1_wl net90 gnd! NMOS_VTL W=90n L=50n
MM1 q qbar gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! q qbar gnd! NMOS_VTL W=90n L=50n
MM3 vdd! q qbar vdd! PMOS_VTL W=180n L=50n
MM2 q qbar vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

