************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 6r3w_new
* View Name:     schematic
* Netlisted on:  Jul 19 15:01:51 2009
************************************************************************

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    6r3w_new
* View Name:    schematic
************************************************************************

.SUBCKT 6r3w_new r1_wl r2_wl r3_wl r4_wl r5_wl r6_wl
+ w1_wl w2_wl w3_wl
+ r1_btl r1_btlb r2_btl r2_btlb r3_btl r3_btlb r4_btl r4_BTLB
+ r5_btl r5_btlb r6_btl r6_BTLB
+ w1_btl w1_btlb w2_btl w2_btlb w3_btl w3_BTLB

*.PININFO r1_wl:I r2_wl:I r3_wl:I r4_wl:I r5_wl:I r6_wl:I
*.PININFO w1_wl:I w2_wl:I w3_wl:I
*.PININFO r1_btl:B r1_btlb:B r2_btl:B r2_btlb:B r3_btl:B r3_btlb:B r4_btl:B r4_BTLB:B
*.PININFO r5_btl:B r5_btlb:B r6_btl:B r6_BTLB:B
*.PININFO w1_btl:I w1_btlb:I w2_btl:I w2_btlb:I w3_btl:I w3_BTLB:I

MM94 qbar_new qbar gnd! gnd! NMOS_VTL W=270n L=50n
MM82 r6_btl r6_wl q_new gnd! NMOS_VTL W=90n L=50n
MM83 r5_btl r5_wl q_new gnd! NMOS_VTL W=90n L=50n
MM95 gnd! q q_new gnd! NMOS_VTL W=270n L=50n
MM78 r1_btl r1_wl q_new gnd! NMOS_VTL W=90n L=50n
MM79 r2_btl r2_wl q_new gnd! NMOS_VTL W=90n L=50n
MM80 r4_btl r4_wl q_new gnd! NMOS_VTL W=90n L=50n
MM81 r3_btl r3_wl q_new gnd! NMOS_VTL W=90n L=50n
MM49 r3_btlb r3_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM41 qbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM38 w3_btl w3_wl q gnd! NMOS_VTL W=90n L=50n
MM51 r4_btlb r4_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM43 qbar w3_wl w3_btlb gnd! NMOS_VTL W=90n L=50n
MM42 qbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl q gnd! NMOS_VTL W=90n L=50n
MM39 w2_btl w2_wl q gnd! NMOS_VTL W=90n L=50n
MM48 r2_btlb r2_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM47 r1_btlb r1_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM57 r5_btlb r5_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM60 r6_btlb r6_wl qbar_new gnd! NMOS_VTL W=90n L=50n
MM1 q qbar gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! q qbar gnd! NMOS_VTL W=90n L=50n
MM3 vdd! q qbar vdd! PMOS_VTL W=180n L=50n
MM2 q qbar vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

