************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 8r4w_new
* View Name:     schematic
* Netlisted on:  Apr 21 13:51:50 2010
************************************************************************

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    8r4w_new
* View Name:    schematic
************************************************************************

.SUBCKT 8r4w_new R1_WL R2_WL R3_WL R4_WL R5_WL R6_WL R7_WL R8_WL
+ W1_WL W2_WL W3_WL W4_WL
+ R1_BTL R1_BTLB R2_BTL R2_BTLB R3_BTL R3_BTLB R4_BTL R4_BTLB 
+ R5_BTL R5_BTLB R6_BTL R6_BTLB R7_BTL R7_BTLB R8_BTL R8_BTLB
+ W1_BTL W1_BTLB W2_BTL W2_BTLB W3_BTL W3_BTLB W4_BTL W4_BTLB
*.PININFO r1_wl:I r2_wl:I r3_wl:I r4_wl:I r5_wl:I r6_wl:I r7_wl:I r8_wl:I 
*.PININFO w1_btl:I w1_btlb:I w1_wl:I w2_btl:I w2_btlb:I w2_wl:I w3_btl:I 
*.PININFO w3_btlb:I w3_wl:I w4_btl:I w4_btlb:I w4_wl:I r1_btl:B r1_btlb:B 
*.PININFO r2_btl:B r2_btlb:B r3_btl:B r3_btlb:B r4_btl:B r4_btlb:B r5_btl:B 
*.PININFO r5_btlb:B r6_btl:B r6_btlb:B r7_btl:B r7_btlb:B r8_btl:B r8_btlb:B
MM82 r6_btl r6_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM83 r5_btl r5_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM84 r7_btl r7_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM85 r8_btl r8_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM94 gnd! qbar qbar_new gnd! NMOS_VTL W=360n L=50n m=1
MM95 gnd! q q_new gnd! NMOS_VTL W=360n L=50n m=1
MM78 r1_btl r1_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM79 r2_btl r2_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM80 r4_btl r4_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM81 r3_btl r3_wl q_new gnd! NMOS_VTL W=90n L=50n m=1
MM68 r8_btlb r8_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM65 r7_btlb r7_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM49 r3_btlb r3_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM41 qbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM38 w3_btl w3_wl q gnd! NMOS_VTL W=90n L=50n m=1
MM51 r4_btlb r4_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM52 w4_btl w4_wl q gnd! NMOS_VTL W=90n L=50n m=1
MM53 qbar w4_wl w4_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM43 qbar w3_wl w3_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM42 qbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n m=1
MM40 w1_btl w1_wl q gnd! NMOS_VTL W=90n L=50n m=1
MM39 w2_btl w2_wl q gnd! NMOS_VTL W=90n L=50n m=1
MM48 r2_btlb r2_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM47 r1_btlb r1_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM57 r5_btlb r5_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM60 r6_btlb r6_wl qbar_new gnd! NMOS_VTL W=90n L=50n m=1
MM1 q qbar gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM0 gnd! q qbar gnd! NMOS_VTL W=90n L=50n m=1
MM3 vdd! q qbar vdd! PMOS_VTL W=180n L=50n m=1
MM2 q qbar vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

